US08557832B2
rac-3-[trans-2-hydroxycyclohexyl]-6-{[6-(hydroxymethyl)pyridine-3-yl]methyl}benzo[h]quinazolin-4(3H)-one
To a solution of rac-5-({3-[trans-2-hydroxycyclohexyl]-4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)pyridine-2-carbaldehyde (0.070 g, 0.17 mmol) in 3 mL of MeOH was added sodium borohydride (0.0096 g, 0.25 mmol). After 1 h, the mixture was treated with saturated aqueous ammonium chloride, concentrated in vacuo, and diluted with ethyl acetate. The organic solution was washed with water and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via preparative reverse phase HPLC to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 416.0 for [M+H]+: 1H NMR (400 MHz, CD3OD) δ 9.06-9.04 (m, 1H), 8.53 (s, 1H), 8.31 (s, 1H), 8.07 (s, 1H), 8.02-7.95 (m, 1H), 7.70-7.67 (m, 1H), 7.46-7.43 (m, 1H), 7.12-7.10 (m, 1H), 4.71 (s, 2H), 4.69-4.61 (m, 1H), 4.49 (s, 2H), 4.04-4.00 (m, 1H), 2.28-2.18 (m, 1H), 1.94-1.88 (m, 1H), 1.72-1.40 (m, 6H).

reactant | rac-5-({3-[trans-2-hydroxycyclohexyl]-4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)pyridine-2-carbaldehyde | 0.17 mmol, 0.070 g | O[C@H]1[C@@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=CC(=NC1)C=O)C=CC=C3 | C25H23N3O3
reactant | sodium borohydride | 0.25 mmol, 0.0096 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | MeOH | 3 mL | CO | CH4O
product | rac-3-[trans-2-hydroxycyclohexyl]-6-{[6-(hydroxymethyl)pyridine-3-yl]methyl}benzo[h]quinazolin-4(3H)-one | O[C@H]1[C@@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)CO)C=CC=C3 | C25H25N3O3
